US07582626B2
a) (1S,2R)-2-(Methoxycarbonyl)cyclopentanecarboxylic acid
(1S,2R)-2-(Methoxycarbonyl)cyclopentanecarboxylic acid was prepared as described in J. Org. Chem. 2000, 65, 6984-6991. Tetrahydro-cyclopenta[c]furan-1,3-dione (5.0 g, 35.7 mmol) was dissolved in a 1:1 mixture of toluene and carbon tetrachloride (720 mL). The mixture was cooled to −55° C. under a nitrogen atmosphere, and then quinine (12.7 g, 39.3 mmol) was added. A solution of methanol (4.33 mL, 107 mmol) in toluene-carbon tetrachloride (1:1, 30 mL) was slowly added via an addition funnel. The suspension was stirred at −55° C. for 36 h, and then allowed to warm to 25° C. The mixture was concentrated in vacuo and the residue was dissolved in ethyl acetate (400 mL), washed with 1.0 M aqueous hydrochloric acid solution (2×400 mL) and saturated aqueous brine solution, dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo to afford the desired product, (1S,2R)-2-(methoxycarbonyl)cyclopentanecarboxylic acid (6.2 g, 35.7 mmol, quantitative), as a clear oil. 1H NMR (400 MHz, CD3OD) δ: 1.67 (1H, m), 1.84 (1H, m), 1.99 (4H, m), 3.08 (2H, m), 3.63 (3H, s).

reactant | Tetrahydro-cyclopenta[c]furan-1,3-dione | 35.7 mmol, 5.0 g | C1(OC(C2C1CCC2)=O)=O | C7H8O3
reactant | quinine | 39.3 mmol, 12.7 g | COC=1C=CC2=C(C1)C(=CC=N2)[C@H]([C@@H]3C[C@@H]4CCN3C[C@@H]4C=C)O | C20H24N2O2
reactant | methanol | 107 mmol, 4.33 mL | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | carbon tetrachloride | 720 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | toluene carbon tetrachloride | 30 mL | C1(=CC=CC=C1)C.C(Cl)(Cl)(Cl)Cl
product | (1S,2R)-2-(methoxycarbonyl)cyclopentanecarboxylic acid | 35.7 mmol, 6.2 g | COC(=O)[C@H]1[C@H](CCC1)C(=O)O | C8H12O4
